US05213709
To a solution of 1.30 g (32.5 mM) of sodium hydroxide in 8.8 ml of water, 0.54 ml (10.5 mM) of bromine was added dropwise at -2° to -0.5° C. under cooling on an ice-common salt bath. After the addition, 3.4 ml of dioxane was added to the mixture to prepare a sodium hypobromite solution. The sodium hypobromite solution was added dropwise to a solution of 1.00 g (3.12 mM) of 2-acetyl-7-octylfluorene in a mixture solvent of 28 ml of dioxane and 2 ml of water at about 5.5° C. under cooling on an ice bath. After the addition, the ice bath was removed and 10 ml of dioxane was added to the resultant mixture, followed by stirring for 1 hour and 50 minutes. After the reaction, the reaction mixture was poured into 200 ml of ice water and acidified with 2.3 ml of hydrochloric acid so as to indicate pH=1 to precipitate a crystal. The crystal was recovered by filtration and recrystallized from acetone to obtain 0.80 g of 7-octyl-2-fluorenecarboxylic acid (Yield: 79.5%).

reactant | sodium hydroxide | 32.5 mM, 1.30 g | [OH-].[Na+]
reactant | sodium hypobromite | Br[O-].[Na+]
reactant | 2-acetyl-7-octylfluorene | 3.12 mM, 1.00 g | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)CCCCCCCC | C23H28O
reactant | hydrochloric acid | 2.3 ml | Cl | ClH
solvent | water | 8.8 ml | O | H2O
solvent | bromine | 10.5 mM, 0.54 ml | BrBr | Br2
solvent | water | 2 ml | O | H2O
solvent | dioxane | 28 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.4 ml | O1CCOCC1 | C4H8O2
product | 7-octyl-2-fluorenecarboxylic acid | 0.80 g, Yield: 79.5% | C(CCCCCCC)C1=CC=C2C=3C=CC(=CC3CC2=C1)C(=O)O | C22H26O2
